US09255097B2
Preparation 122B: 3-(4-cyano-3-fluoro-phenyl)-2-(4-methoxy-phenyl)-3-oxo-propionic acid methyl ester
To a solution of (4-methoxy-phenyl)-acetic acid (2.18 g, 12.12 mmol) in THF (20 mL) was added LiHMDS (18.2 mL, 18.18 mmol) at −78° C. and the mixture was stirred for 30 min. A solution of 4-cyano-3-fluoro-benzoyl chloride (2.2 g, 12 mmol) in THF was added dropwise at −78° C.; and the reaction mixture was allowed to warm up to RT and stirred at overnight. Aqueous NH4Cl was added and the aqueous was extracted with EA (3×). The combined organics were concentrated in vacuo and the residue was purified by silica column chrmatography (1:5, EA: PE) to give 1.8 g (45%) of the title compound. [M+H] Calc'd for C18H14FNO4, 328. Found, 328.

reactant | (4-methoxy-phenyl)-acetic acid | 12.12 mmol, 2.18 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | LiHMDS | 18.18 mmol, 18.2 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4-cyano-3-fluoro-benzoyl chloride | 12 mmol, 2.2 g | C(#N)C1=C(C=C(C(=O)Cl)C=C1)F | C8H3ClFNO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(4-cyano-3-fluoro-phenyl)-2-(4-methoxy-phenyl)-3-oxo-propionic acid methyl ester | 1.8 g, 45% | COC(C(C(=O)C1=CC(=C(C=C1)C#N)F)C1=CC=C(C=C1)OC)=O | C18H14FNO4
